US04202697
(f) 2-methyl-indolizine-3-carbonyl chloride
A solution of 99 g of phosgene (1 mole) in 800 ml of anhydrous toluene was cooled beneath 15° C. While the reaction mixture was cooled and stirred a solution of 131 g of methylindolizine (1 mole) in 475 ml of anhydrous toluene was added dropwise. The reaction mixture was kept overnight and the residue formed was sucked off.

reactant | phosgene | 1 mole, 99 g | C(=O)(Cl)Cl | CCl2O
reactant | methylindolizine | 1 mole, 131 g | CC=1C=CN2C=CC=CC12 | C9H9N
reactant | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 475 ml | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-indolizine-3-carbonyl chloride | CC=1C=C2C=CC=CN2C1C(=O)Cl | C10H8ClNO
